US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.150 g, 0.330 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 0-50% CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide hydrochloride (0.120 g, 85% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.17 (s, 1H), 7.46 (s, 1H), 4.13 (s, 2H), 4.01-3.93 (m, 11-10, 3.91-3.88 (m, 1H), 3.68-3.61 (m, 1H), 3.60-3.53 (m, 2H), 2.41-2.38 (m, 1H), 2.05-2.02 (m, 1H). LCMS (APCI+) m/z 354, 356 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(2-hydroxyacetamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.330 mmol, 0.150 g | BrC=1C(=C2C(=NC1)NC=C2NC(CO)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C18H24BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxyacetamide hydrochloride | 0.120 g, 85% yield | Cl.N[C@H]1CN(CC1)C1=C2C(=NC=C1Br)NC=C2NC(CO)=O | InChI=1S/C13H16BrN5O2.ClH/c14-8-3-16-13-11(9(4-17-13)18-10(21)6-20)12(8)19-2-1-7(15)5-19;/h3-4,7,20H,1-2,5-6,15H2,(H,16,17)(H,18,21);1H/t7-;/m1./s1
